US08912186B2
By a procedure similar to that of example 1.115.1, starting from 4-methylphenylacetyl chloride and ethyl N-phenyl-3-aminopropionate, ethyl 3-[2-(4-methylphenyl)-N-phenylacetamido]propanoate was obtained as yellowish oil.

reactant | 4-methylphenylacetyl chloride | CC1=CC=C(C=C1)CC(=O)Cl | C9H9ClO
reactant | ethyl N-phenyl-3-aminopropionate | C1(=CC=CC=C1)NCCC(=O)OCC | C11H15NO2
product | ethyl 3-[2-(4-methylphenyl)-N-phenylacetamido]propanoate | CC1=CC=C(C=C1)CC(=O)N(C1=CC=CC=C1)CCC(=O)OCC | C20H23NO3
